US08304419B2
Step B: 4-bromo-2-methyl-1H-imidazole-5-carboxylic acid
A solution of sodium chlorite (1.6 g, 17.8 mmol) and sodium dihydrogen phosphate monohydrate (1.5 g, 10.6 mmol) in water (3.9 mL) was added to a stirred solution of 4-bromo-2-methyl-1H-imidazole-5-carbaldehyde (0.334 g, 1.8 mmol), 2-methyl-2-butene (11 mL of a 2M solution in THF, 22.0 mmol), and tert-butanol (1.3 mL) in THF (5.5 mL). The reaction mixture was stirred at RT for 6 h. The aqueous phase was separated and extracted with EtOAc (4×10 mL). The combined extracts were dried (Na2SO4), filtered, concentrated and the residue was triturated with diethyl ether to provide the title compound (0.316 g, 87%) as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.91 (br. s., 1H), 2.27 (s, 3H). ES-LCMS: m/z 205.2, 207.3 (M+1).

reactant | sodium chlorite | 17.8 mmol, 1.6 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate monohydrate | 10.6 mmol, 1.5 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | 4-bromo-2-methyl-1H-imidazole-5-carbaldehyde | 1.8 mmol, 0.334 g | BrC=1N=C(NC1C=O)C | C5H5BrN2O
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | water | 3.9 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5.5 mL | C1CCOC1 | C4H8O
solvent | tert-butanol | 1.3 mL | C(C)(C)(C)O | C4H10O
product | 4-bromo-2-methyl-1H-imidazole-5-carboxylic acid | 0.316 g, 87% | BrC=1N=C(NC1C(=O)O)C | C5H5BrN2O2
